US09029392B2
2-[(Hydroxy)(2-methylpyridin-3-yl)methyl]acrylic acid ethyl ester
To 2-methylpyridine-3-carbaldehyde (5 g, 0.04 mol) in ethyl acrylate (10 mL) were added DABCO (1 g, 0.01 mol) and methanol (1 mL). The reaction mixture was stirred at 45° C. for 3 days. The reaction mixture was then concentrated and purified by column chromatography (SiO2, 60-100% EtOAc/DCM) to give the title compound (62%) as a colourless oil. δH (DMSO-d6) 8.32 (dd, J 4.8, 1.7 Hz, 1H), 7.51 (dd, J 7.7, 1.7 Hz, 1H), 7.17 (dd, J 7.7, 4.8 Hz, 1H), 6.28 (t, J 1.3 Hz, 1H), 5.91 (t, J 1.6 Hz, 1H), 5.78 (d, J 5.0 Hz, 1H), 5.62 (d, J 5.0 Hz, 1H), 4.10-4.00 (m, 2H), 3.29 (s, 3H), 1.10 (t, J 7.0 Hz, 3H). LCMS (ES+) 222 (M+H)+, RT 1.11 minutes.

reactant | 2-methylpyridine-3-carbaldehyde | 0.04 mol, 5 g | CC1=NC=CC=C1C=O | C7H7NO
reactant | DABCO | 0.01 mol, 1 g | C1CN2CCN1CC2 | C6H12N2
reactant | methanol | 1 mL | CO | CH4O
reactant | ethyl acrylate | 10 mL | C(C=C)(=O)OCC | C5H8O2
product | 2-[(Hydroxy)(2-methylpyridin-3-yl)methyl]acrylic acid ethyl ester | 62% | C(C)OC(C(=C)C(C=1C(=NC=CC1)C)O)=O | C12H15NO3
